US07498325B2
a) 2-amino-N-[1-(phenylmethyl)-4-piperidinyl]-benzamide
To an ice-cold solution of 28 ml (134 mmol) of 4-amino-1-(phenylmethyl)piperidine in 200 ml of tetrahydrofuran were added, batchwise, 21.9 g (134 mmol) of isatoic acid anhydride. The resulting suspension was stirred for 2½ hours at room temperature and 2½ hours at reflux temperature, then freed from solvent. The residue was dissolved in 100 ml of hot ethanol, the resulting solution was filtered whilst hot after the addition of 5 g of activated charcoal. The crystal mass precipitated after cooling was suction filtered, washed with diisopropylether and dried in vacuo at 50° C. 28.3 g of colourless crystals were obtained. A further 5.1 g of a product of the same quality were isolated from the combined mother liquors. Total yield: 33.4 g (80.6% of theory).

reactant | 4-amino-1-(phenylmethyl)piperidine | 134 mmol, 28 ml | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | isatoic acid anhydride | 134 mmol, 21.9 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-N-[1-(phenylmethyl)-4-piperidinyl]-benzamide | 28.3 g | NC1=C(C(=O)NC2CCN(CC2)CC2=CC=CC=C2)C=CC=C1 | C19H23N3O
